US06136800
A suspension of 2.0 g of 11β-methoxy-3-hydroxy-estra-1,3,5(10)-trien-17-one in 20 ml of toluene, 5 ml of tetrahydrofuran and 3.0 ml of dihydropyran is stirred with 20 mg of para-toluenesulfonic acid for 24 hours at room temperature. Then, 0.5 ml of pyridine is added, diluted with ethyl acetate, washed with sodium bicarbonate solution as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/acetone. 1.9 g of 11β-methoxy-3-tetrahydropyranyloxy-estra-1,3,5(10)-trien-17-one is obtained as crystals with a melting point of 147° C., [α]D22 =+147.2° (c=0.5% in pyridine).

reactant | 11β-methoxy-3-hydroxy-estra-1,3,5(10)-trien-17-one | 2.0 g | CO[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)O | C19H24O3
reactant | para-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dihydropyran | 3.0 ml | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-methoxy-3-tetrahydropyranyloxy-estra-1,3,5(10)-trien-17-one | 1.9 g | CO[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)OC1OCCCC1 | C24H32O4
